US07790728B2
N-[5-(3-fluoropyridin-4-yl)-6-(5-fluoropyridin-2-yl)pyrazin-2-yl]cyclopropane carboxamide
An oven dried resealable Schlenk tube was charged with 2-bromo-5-fluoropyridine (0.52 g, 2.9 mmol), hexamethylditin (0.97 g, 2.9 mmol) and toluene (15 mL). The Schlenk tube was subjected to three cycles of evacuation-backfilling with argon, and tetrakis(triphenylphosphine)palladium (0.162 g, 0.14 mmol) was added. After three new cycles of evacuation-backfilling with argon, the Schlenk tube was capped and placed in an oil bath at 80° C. After 5 hours, the mixture was cooled and N-[6-chloro-5-(3-fluoropyridin-4-yl)pyrazin-2-yl]cyclopropanecarboxamide (Preparation 10, 0.424 g, 1.45 mmol) and further tetrakis(triphenylphosphine)palladium (0.162 g, 0.14 mmol) were added. The mixture was heated to 110° C. and stirred overnight. The mixture was concentrated, ethyl acetate was added and the organic solution was washed with 4% aqueous sodium bicarbonate solution, brine, dried (MgSO4) and evaporated. The residue was purified by silica gel chromatography (CH2Cl2/MeOH 98:2). The appropriate fractions were concentrated to leave a solid which, upon washing with a mixture of hexane and ethyl acetate, gave the title compound (0.077 g, 15%) as an off-white solid.

reactant | 2-bromo-5-fluoropyridine | 2.9 mmol, 0.52 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | hexamethylditin | 2.9 mmol, 0.97 g | C[Sn](C)C.C[Sn](C)C
reactant | N-[6-chloro-5-(3-fluoropyridin-4-yl)pyrazin-2-yl]cyclopropanecarboxamide | 1.45 mmol, 0.424 g | ClC1=C(N=CC(=N1)NC(=O)C1CC1)C1=C(C=NC=C1)F | C13H10ClFN4O
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 mmol, 0.162 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 mmol, 0.162 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-(3-fluoropyridin-4-yl)-6-(5-fluoropyridin-2-yl)pyrazin-2-yl]cyclopropane carboxamide | 0.077 g, 15% | FC=1C=NC=CC1C=1N=CC(=NC1C1=NC=C(C=C1)F)NC(=O)C1CC1 | C18H13F2N5O
